US08536169B2
2-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-2,3-dihydro-1H-isoindol-1-one
A mixture of 6-(1H-indol-4-yl)-1H-indazol-4-amine (100 mg, 0.403 mmol) and 1,2-benzenedicarbaldehyde (54 mg, 0.403 mmol) in ethyl acetate (1 ml) and acetic acid (0.25 ml) was stirred under a nitrogen atmosphere at room temperature for 3 h then overnight at room temperature. The reaction mixture was diluted with ethyl acetate (20 ml) and washed with 5% sodium bicarbonate solution (10 ml). The phases were separated, and the aqueous phase was extracted with further ethyl acetate (20 ml). The combined organic extracts (which contained a small amount of insoluble solid) were dried over anhydrous sodium sulphate, filtered and evaporated to give a yellow foam. This was partially dissolved in ethyl acetate (20 ml) and pre-adsorbed on silica (1.5 g). This silica was then added to the top of a 20 g silica SPE cartridge. The cartridge was eluted on a Flashmaster (II) instrument using a gradient of 0-100% ethyl acetate in cyclohexane over 30 min. Appropriate fractions were combined and evaporated to give the title compound (20 mg) as a pale yellow solid.

reactant | 6-(1H-indol-4-yl)-1H-indazol-4-amine | 0.403 mmol, 100 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NNC2C1)N | C15H12N4
reactant | 1,2-benzenedicarbaldehyde | 0.403 mmol, 54 mg | C=1(C(=CC=CC1)C=O)C=O | C8H6O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-2,3-dihydro-1H-isoindol-1-one | 20 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)N1C(C2=CC=CC=C2C1)=O | C23H16N4O
